US08669398B2
Preparation of 1,3-Bis-(2,6-diisopropyl-phenyl)-2-diethylamino-isourea (compound 14)
To a solution of bis(2,6-diisopropylphenyl)carbodiimide (4.35 g, 12 mmol) and N,N-diethylhydroxylamine (1.6 g, 18 mmol) in THF (20 ml) is added finely powdered NaOH (48 mg) and the mixture is stirred at room temperature for 22 hours. The reaction mixture is then filtered and the filtrate is evaporated on the rotary evaporator below 45° C. The residue is recrystallized twice from acetonitrile to afford 1.75 g of the title compound as a white solid, mp. 113-116° C.

reactant | bis(2,6-diisopropylphenyl)carbodiimide | 12 mmol, 4.35 g | C(C)(C)C1=C(C(=CC=C1)C(C)C)N=C=NC1=C(C=CC=C1C(C)C)C(C)C | C25H34N2
reactant | N,N-diethylhydroxylamine | 18 mmol, 1.6 g | C(C)N(O)CC | C4H11NO
reactant | NaOH | 48 mg | [OH-].[Na+]
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | 1,3-Bis-(2,6-diisopropyl-phenyl)-2-diethylamino-isourea | 1.75 g | C(C)(C)C1=C(C(=CC=C1)C(C)C)NC(ON(CC)CC)=NC1=C(C=CC=C1C(C)C)C(C)C | C29H45N3O
